US09102591B2
N-[4,4-Difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexylmethyl]-2,3-difluoro-benzamide
From 2,3-difluorobenzoic acid and C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=385.0, tR (minutes, Method D)=0.71

reactant | 2,3-difluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1F | C7H4F2O2
reactant | C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CN)F | C12H15F3N2
product | N-[4,4-Difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexylmethyl]-2,3-difluoro-benzamide | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CNC(C1=C(C(=CC=C1)F)F)=O)F | C19H17F5N2O
